US09108938B2
To a solution of 2-morpholino-2-(pyrimidin-5-yl)acetonitrile (1.03 g, 5.04 mmol) and DFMS (4 g, 13.61 mmol) in DCM (40 mL) and H2O (16 mL) at room temperature was added CF3COOH (575 mg, 5.04 mmol) followed by slow addition of 2-hydroperoxy-2-methylpropane (3.24 g, 70% solution in H2O) with vigorous stirring. The reaction mixture was stirred at room temperature overnight. The reaction mixture was portioned between DCM (50 mL) and saturated NaHCO3 solution (50 mL), the organic layer was separated and the aqueous layer was extracted with DCM (5 mL×3). The organic layer was washed with brine, dried over Na2SO4 and concentrated. The crude product was purified by Prep-TLC (Petroleum ether:EtOAc=10:12:1) to give 2-(2-(difluoromethyl)pyrimidin-5-yl)-2-morpholinoacetonitrile (150 mg, yield: 11.7%). 1H NMR (CDCl3 400 MHz): δ9.01 (d, J=10.0 Hz, 2H), 6.67 (t, J=54.4 Hz, 1H), 4.91 (s, 1H), 3.95-3.62 (m, 4H), 2.81-2.46 (m, 4H).

reactant | 2-morpholino-2-(pyrimidin-5-yl)acetonitrile | 5.04 mmol, 1.03 g | O1CCN(CC1)C(C#N)C=1C=NC=NC1 | C10H12N4O
reactant | CF3COOH | 5.04 mmol, 575 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2-hydroperoxy-2-methylpropane | 3.24 g | O(O)C(C)(C)C | C4H10O2
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 16 mL | O | H2O
product | 2-(2-(difluoromethyl)pyrimidin-5-yl)-2-morpholinoacetonitrile | 150 mg, yield: 11.7% | FC(C1=NC=C(C=N1)C(C#N)N1CCOCC1)F | C11H12F2N4O
